US04000303
EXAMPLE 2 1-(dichlorofluoromethylthio)-3-(3' ,4'-dichlorophenyl)-5-methylimidazolidine-2,4-dione (Compound 2).
20.4 g of fluorodichloromethanesulphenyl chloride is added dropwise at 0° C, with thorough stirring, to 25.9 g of 3-(3',4'-dichlorophenyl)-5-methyl-imidazolidine-2,4-dione in 500 ml of acetic acid ethyl ester, and after 2 hours an addition is made dropwise, likewise at 0° C. of 12.1 g of triethylamine in 100 ml of acetic acid ethyl ester. After the whole has been stirred for 3 hours at room temperature, the triethylamine hydrochloride is filtered off; the solvent is evaporated off from the filtrate and the residue is recrystallised in methanol. Compound No. 2 melts at 138° - 140° C after recrystallisation.

reactant | fluorodichloromethanesulphenyl chloride | 20.4 g | FC(SCl)(Cl)Cl | CCl3FS
reactant | 3-(3',4'-dichlorophenyl)-5-methyl-imidazolidine-2,4-dione | 25.9 g | ClC=1C=C(C=CC1Cl)N1C(NC(C1=O)C)=O | C10H8Cl2N2O2
reactant | triethylamine | 12.1 g | C(C)N(CC)CC | C6H15N
solvent | acetic acid ethyl ester | 500 ml | C(C)OC(C)=O | C4H8O2
solvent | acetic acid ethyl ester | 100 ml | C(C)OC(C)=O | C4H8O2
product | 1-(dichlorofluoromethylthio)-3-(3' ,4'-dichlorophenyl)-5-methylimidazolidine-2,4-dione | ClC(SN1C(N(C(C1C)=O)C1=CC(=C(C=C1)Cl)Cl)=O)(F)Cl | C11H7Cl4FN2O2S
